US09216980B2
Step 2: 6-(1-Methyl-1H-pyrazol-4-yl)-3-(4-morpholin-4-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole
A degassed mixture of 6-bromo-3-(4-morpholin-4-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole (245 mg, 0.58 mmol), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (241 mg, 1.16 mmol), 1,1′-[bis(diphenylphosphino)ferrocene]dichloropalladium(II) (47 mg, 0.06 mmol) in 2N aqueous sodium carbonate solution (7 mL) and acetonitrile (7 mL) was heated under microwave irradiation at 130° C. for 20 minutes. The cooled reaction mixture was diluted with ethyl acetate (75 mL) and washed with water (50 mL). The organic phase was separated, dried over sodium sulfate, filtered and evaporated in vacuo to afford a residue that was purified by flash chromatography (silica, 10 g column, Biotage, 0-10% methanol in DCM) to afford the title compound as a white solid (61 mg, 25%). 1H NMR (CDCl3, 300 MHz): 8.86 (d, J=1.1 Hz, 1H), 8.81 (d, J=2.2 Hz, 1H), 8.77 (d, J=2.2 Hz, 1H), 8.31 (d, J=1.1 Hz, 1H), 8.07 (s, 1H), 8.05 (d, J=0.8 Hz, 1H), 7.73-7.67 (m, 2H), 7.54-7.48 (m, 2H), 4.01 (s, 3H), 3.80-3.73 (m, 4H), 3.63 (s, 2H), 2.60-2.52 (m, 4H).

reactant | 6-bromo-3-(4-morpholin-4-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | 0.58 mmol, 245 mg | BrC1=CC=2C3=C(NC2C=N1)N=CC(=C3)C3=CC=C(C=C3)CN3CCOCC3 | C21H19BrN4O
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 1.16 mmol, 241 mg | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
solvent | sodium carbonate | 2N, 7 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 7 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
product | 6-(1-Methyl-1H-pyrazol-4-yl)-3-(4-morpholin-4-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | 61 mg, 25% | CN1N=CC(=C1)C1=CC=2C3=C(NC2C=N1)N=CC(=C3)C3=CC=C(C=C3)CN3CCOCC3 | C25H24N6O
